US06355799B1
Preparation of 3-(4-chloro-6-fluoro-3-methoxy-2-nitrophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compound no. 1-1)
3-(4-Chloro-6-fluoro-3-methoxyphenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (10.0 g, 29.5 mmol) was slowly added to a stirred mixture of con. sulfuric acid (36 ml) and con. nitric acid (4 ml) with stirring at −15° C. The solution was then slowly warmed to room temperature and allowed to stir for 2 hr. Addition of the solution to ice-water resulted in a light yellow precipitate which was separated by filtration to afford the title compound (9.1 g). NMR data for the compound are listed in Table XVIII.

reactant | 3-(4-Chloro-6-fluoro-3-methoxyphenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 29.5 mmol, 10.0 g | ClC1=C(C=C(C(=C1)F)N1C(NC(=CC1=O)C(F)(F)F)=O)OC | C12H7ClF4N2O3
reactant | sulfuric acid | 36 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 4 ml | [N+](=O)(O)[O-] | HNO3
product | 3-(4-chloro-6-fluoro-3-methoxy-2-nitrophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 9.1 g | ClC1=C(C(=C(C(=C1)F)N1C(NC(=CC1=O)C(F)(F)F)=O)[N+](=O)[O-])OC | C12H6ClF4N3O5
